Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hypotension, unresponsiveness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M with ESRD on HD TThS, HFrEF (EF 30%), mixed 
cardiomyopathy, cor pulmonale ___ COPD/OSA, severe pulmonary 
HTN, chronic AF on warfarin, AV nodal disease s/p PPM ___ c/b 
device infection with new ___ device placement ___, HTN, 
HLD, probable CAD, DM who presents from dialysis with 
unresponsiveness and hypotension.

While at HD, pt was noted to be unresponsive and cyanotic 
appearing after receiving 3.5h of scheduled 4h dialysis. CPR was 
planned to be started but pt woke up on his own. HR at that time 
noted to be irregular in the 70-80s. Unable to recount events of 
his syncopal event. Denies any presyncopal symptoms. Felt 
slightly lightheaded afterward the event with some nausea and 
shortness of breath but no chest pain. These symptoms resolved 
after a few minutes. This has not occurred in the past with 
dialysis, and he has no history of recent falls or prior 
syncope. Prior to dialysis that day he was feeling overall well, 
and denies fevers, chills, cough, abdominal pain, vomiting, 
dysuria, diarrhea. In the ED, - Initial vitals were: T98, HR 80, 
BP 89/62 (lowest BP 66/46 while in ED), RR 18, 95-100% RA - Exam 
notable for: BP 89/62, otherwise benign - Labs notable for: 
Trop-T 0.13, MB 4, lactate 2.0, Na 130, K 5.9, Cr 3.2, WBC 11.4 
(67.7% PMNs), INR 1.7 - Studies notable for: CXR with pulmonary 
vascular congestion and no frank pulmonary edema, bilateral 
small pleural effusion - Patient was given: 750cc NS, On arrival 
to the CCU, patient reports feeling well after receiving some 
fluid down in the ED and with improvement in his BP. He denies 
any current lightheadedness/dizziness, chest pain, shortness of 
breath, palpitations, fever/chills, URI symptoms, nausea, 
diarrhea, dysuria, hematochezia or melena. He does report some 
stable morning cough with white phlegm production - no increase 
in coughing, phlegm production, or change in phlegm color. ROS: 
Positive per HPI. Remaining 10 point ROS reviewed and negative. 
 
Past Medical History:
T2DM
HFrEF
HTN
HLD
CAD
Pacemaker placement ___ due to AV nodal disease
ESRD on HD
Atrial fibrillation
COPD (home 2L O2)
Skin cancer
OSA on CPAP
Pulmonary HTN
GOUT 
 
Social History:
___
Family History:
Both parents died of heart failure
Son with HTN
 
Physical Exam:
ADMISSION EXAM
===============
VS: T98, BP 107/75, HR 73, O2 92% on RA 
 GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
 HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI
 NECK: Supple. JVP flat 
 CARDIAC: Normal rate, regular rhythm. harsh systolic ejection
murmur.   
 LUNGS: CTAB. Respiration is unlabored with no accessory muscle
use. No adventitious breath sounds.  
 ABDOMEN: Soft, non-tender, non-distended. No palpable
hepatomegaly or splenomegaly.  
 EXTREMITIES: Cool, dry. No clubbing, cyanosis, or peripheral
edema.  
 SKIN: No significant lesions or rashes. Several scabs on his
bilateral legs, sacral decubitus ulcer dressed 
 PULSES: Distal pulses palpable and symmetric.  
 NEURO: A&Ox3, moving all 4 extremities spontaneously, CNII-XII
intact

DISCHARGE EXAM
==============
VS: 24 HR Data (last updated ___ @ 529)
    Temp: 98.6 (Tm 98.6), BP: 104/66 (91-110/53-68), HR: 68
(63-72), RR: 16 (___), O2 sat: 99% (90-99), O2 delivery: 2L  
GENERAL: Lying in bed, NAD   
HEENT: MMM.  
NECK: Supple. JVP flat 
CARDIAC: Normal rate, regular rhythm. harsh systolic ejection
murmur.   
LUNGS: CTAB, mild wheezing
ABDOMEN: Soft, non-tender, non-distended. No palpable
hepatomegaly or splenomegaly.  
EXTREMITIES: No peripheral edema.
PULSES: Distal pulses palpable and symmetric.  
NEURO: A&Ox3, moving all 4 extremities spontaneously
 
Pertinent Results:
ADMISSION LABS
==============
___ 02:55PM BLOOD WBC-11.4* RBC-4.15* Hgb-13.4* Hct-42.5 
MCV-102* MCH-32.3* MCHC-31.5* RDW-15.9* RDWSD-60.3* Plt ___
___ 02:55PM BLOOD Neuts-67.7 Lymphs-15.4* Monos-12.0 
Eos-2.3 Baso-0.9 Im ___ AbsNeut-7.69* AbsLymp-1.75 
AbsMono-1.36* AbsEos-0.26 AbsBaso-0.10*
___ 02:55PM BLOOD Glucose-113* UreaN-19 Creat-3.2*# Na-130* 
K-5.9* Cl-92* HCO3-22 AnGap-16
___ 09:06PM BLOOD Glucose-122* UreaN-23* Creat-3.5* Na-129* 
K-5.8* Cl-94* HCO3-20* AnGap-15
___ 02:55PM BLOOD ___ PTT-30.6 ___
___ 02:55PM BLOOD cTropnT-0.13*
___ 09:06PM BLOOD CK-MB-4 cTropnT-0.13*
___ 02:55PM BLOOD Calcium-8.4 Phos-3.1 Mg-2.1
___ 04:25PM BLOOD Lactate-2.0

DISCHARGE LABS
===============
___ 05:35AM BLOOD WBC-10.1* RBC-3.20* Hgb-10.4* Hct-33.4* 
MCV-104* MCH-32.5* MCHC-31.1* RDW-15.9* RDWSD-60.8* Plt ___
___ 05:35AM BLOOD ___ PTT-71.5* ___
___ 05:35AM BLOOD Glucose-94 UreaN-45* Creat-5.2*# Na-140 
K-4.5 Cl-99 HCO3-27 AnGap-14
___ 05:35AM BLOOD Calcium-8.9 Phos-3.7 Mg-2.3

IMAGING
=======
CHEST PORTABLE AP (___)
Low lung volume.  Pulmonary vascular congestion without frank 
pulmonary edema and bilateral small pleural effusions as on ___.

STUDIES/PROCEDURES
====================
Device interrogation note ___:
Summary:
1. No HRE's to explain pt's loss of consciousness
2. Pacer function normal with acceptable lead measurements and
battery status. See uploaded report for details.  
3. Programming changes: None
4. Follow-up: Routine device clinic follow up

MICROBIOLOGY
=============
___ 11:29 pm BLOOD CULTURE      Source: Venipuncture. 
   Blood Culture, Routine (Pending):    No growth to date.

___ 5:23 am BLOOD CULTURE
   Blood Culture, Routine (Pending):    No growth to date.

___ 12:19 pm BLOOD CULTURE      Source: Line-tunneled HD. 
   Blood Culture, Routine (Pending):    No growth to date. 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
=======================
___ M with ESRD on HD TThS, HFrEF (EF 30%), mixed 
cardiomyopathy, cor pulmonale ___ COPD/OSA, severe pulmonary 
HTN, chronic AF on warfarin, AV nodal disease s/p PPM ___ c/b 
device infection with new ___ device placement ___, HTN, 
HLD, probable CAD, DM who presents from dialysis with 
unresponsiveness
and hypotension.

#CORONARIES: unknown, suspected ischemic disease 
#PUMP: EF 30% (___) 
#RHYTHM: V-paced, HR 70 

ACUTE ISSUES: 
============= 
#Syncope - resolved
Presented for witnessed syncopal episode during HD concerning 
for cardiac etiology given sudden onset and rapid resolution, 
given patient's extensive cardiac comorbidities. Most likely in 
setting of fluid shifts during HD causing poor forward flow in 
setting of severe aortic stenosis causing poor perfusion in the 
setting of fluid shifts of HD. ACS less likely given trops at 
baseline (elevated in setting of ESRD). Seizure less likely 
given no definite post-ictal state or witnessed tonic clonic 
activity. Rapid neurologic recovery less consistent with TIA. Of 
note, TAVR eval and ICD previously deferred by outpatient teams 
due to invasive nature and functional status. Patient was given 
750 cc of fluid in the ED with improvement of blood pressure and 
mental status. Upon reaching the CCU his blood pressures has 
returned to baseline and he was feeling well. His device was 
interrogated on ___ which did not reveal any high rate events 
or malfunction of the pacemaker. 

#Hypotension - resolved
Patient with hypotension to ___ (lowest 66/46 while in ED) 
that improved after 750 cc fluid bolus. There was no report of 
fever, leukocytosis above baseline, findings on CXR, or 
localizing symptoms of infection to suggest sepsis. Normal 
mentation and normal lactate reassuring against shock. ___ 
related to hypovolemia/fluid shifting during HD given 
improvement with fluids.  

#HFrEF (EF 30%) 
#Mixed cardiomyopathy 
#severe low flow low gradient AS (valve area <1cm2) 
Patient with episode of syncope/hypotension potentially in 
setting of worsening. Less likely due to HF exacerbation - no 
evidence of frank pulmonary edema on CXR or and seems euvolemic 
on exam. Has had ongoing discussion with outpt cardiologist Dr. 
___ as to whether or not patient would want to pursue TAVR 
although per recent clinic note, further invasive therapies seem 
unwarranted at this point given his poor rehab potential (has 
been at rehab for over a year) and has multiple medical 
comorbidities. His home metoprolol was held in the setting of 
hypotension and restarted on ___. Patient is not on ___ 
due to baseline hypotension.  He should have continued 
conversations with Dr. ___ potential for TAVR if he 
becomes more symptomatic from his severe AS, or for potential 
biventricular ICD placement.

#Afib 
CHADS2VASC 6
On home warfarin and metoprolol. Initially held home metoprolol 
in setting of hypotension. Home metoprolol was restarted on 
___. His INR was noted to be sub-therapeutic at 1.7 and 
downtrended to 1.4. Patient was started on a heparin drip given 
high CHADs2VASC while continuing home warfarin with a goal INR 
___. Downtrending INR was a barrier to discharge and he remained 
on a heparin drip while bridging to therapeutic INR until 1.8 on 
day of discharge, thought to be acceptable in the absence of hx 
prior stroke or mechanical valve. Anticipate him to be 
therapeutic day after discharge. 

#ESRD on HD ___:
Recently started on HD three months prior through R IJ tunneled 
catheter. Nephrology was consulted who agreed that syncopal 
event likely related to excess UF in patient with low flow AS. 
Continued home sevelamer and nephrocaps. Last HD session on 
___ 

#Troponemia 
Trop-T to 0.13 and stable on repeat, similar to previously noted 
elevated Trop 0.11-0.15, likely in setting of ESRD. CKMB 4. No 
acute ischemic changes on ECG or chest pain. 

CHRONIC ISSUES: 
=============== 
#HLD #suspected CAD: Continued home atorvastatin 80 qPM. 

#COPD: Per rehab no longer on inhalers/bronchodilators, though 
noted to have a history of COPD. On home 2L O2 PRN O2>88%. Has 
not seen his pulmonologist in over ___ years - will set up follow 
up appointment for this. 

#T2DM: Placed on ISS. 

#GERD: Continue home famotidine.

#Depression: Continued home fluoxetine 

#OSA: Did not come in on home CPAP, should have pulmonology 
follow up to initiate CPAP if appropriate. 

TRANSITIONAL ISSUES
===================
[] Due for HD on ___
[] Will require follow-up daily INR checks or earliest 
available. 
[] TAVR not currently appropriate option. Though continue to 
re-address at future cardiology follow-up. ___, CRT-D not 
within ___.
[] Consider decreasing metoprolol on HD days.
[] Consider lessening ultrafiltration for volume removal in 
setting of severe AS.
[] Will need to re-establish care with pulmonology to reconcile 
bronchodilators for COPD and CPAP for OSA

CORE MEASURES
=============
CODE: Full confirmed 
#CONTACT/HCP: ___ Relationship: Spouse Phone number: 
___ 
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 80 mg PO QPM 
2. Famotidine 20 mg PO DAILY 
3. FLUoxetine 20 mg PO DAILY 
4. Gabapentin 100 mg PO BID 
5. LamoTRIgine 25 mg PO DAILY 
6. Metoprolol Tartrate 6.25 mg PO BID 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
8. sevelamer CARBONATE 800 mg PO DAILY 
9. TraZODone 50 mg PO QHS:PRN insomnia 
10. ___  MD to order daily dose PO DAILY16 

 
Discharge Medications:
1.  Metoprolol Succinate XL 12.5 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Famotidine 20 mg PO DAILY  
4.  FLUoxetine 20 mg PO DAILY  
5.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
6.  Gabapentin 100 mg PO DAILY  
7.  LamoTRIgine 25 mg PO DAILY  
8.  Loratadine 10 mg PO DAILY  
9.  Multivitamins 1 TAB PO DAILY  
10.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain   
11.  Polyethylene Glycol 17 g PO DAILY  
12.  sevelamer CARBONATE 1600 mg PO TID W/MEALS  
13.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Syncope
Hypotension
Severe Aortic stenosis 
Atrial Fibrillation

SECONDARY DIAGNOSIS
=====================
Chronic systolic heart failure 
End stage renal disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
 
Please see below for more information on your hospitalization. 
It was a pleasure taking part in your care here at ___!
We wish you all the best!
- Your ___ Care Team
 
WHY WERE YOU ADMITTED TO THE HOSPITAL?
-  You were sent to the hospital from dialysis for low blood 
pressure. 
 
WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
-  When you came to the hospital your blood pressure had 
improved. The low blood pressure is likely due to dialysis 
taking off a little too much fluid too quickly. 
- We checked your pacemaker which did not show any irregular 
heart rhythms
- We evaluated you for infection which was negative. 
 
WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below)  
- Follow up with your doctors as listed below  
- Weigh yourself every morning, seek medical attention if your 
weight goes up more than 3 lbs.  
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
 
Followup Instructions:
___